US04886835
The procedure is as in Example 4 for the preparation of α-methylthioacetophenone, starting with 2-(2-bromoacetyl)naphthalene (12.5 g) and sodium methanethiolate (3.5 g) in ethanol (100 cc). 2-[2-(Methylthio)acetyl]naphthalene (8 g) is thereby obtained, and is used in the crude state in the subsequent syntheses.

reactant | α-methylthioacetophenone | CCC(=S)C1=CC=CC=C1 | C9H10S
reactant | 2-(2-bromoacetyl)naphthalene | 12.5 g | BrCC(=O)C1=CC2=CC=CC=C2C=C1 | C12H9BrO
reactant | sodium methanethiolate | 3.5 g | C[S-].[Na+]
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | 2-[2-(Methylthio)acetyl]naphthalene | 8 g | CSCC(=O)C1=CC2=CC=CC=C2C=C1 | C13H12OS
